US05463069
N-(4-methoxyphenyl)cyanamide (2.22 g) was dissolved in DMF (11.10 g), to which powdered potassium carbonate (3.11 g) and potassium iodide (0.26 g) were added at room temperature with stirring. Further, 2,3-dichloro-1-propene (2.00 g) was added dropwise at room temperature with stirring. The mixture was heated to 50° C. and stirred at the same temperature for 1.5 hours. After cooling to room temperature, ammonium sulfide solution, yellow (8.00 g) having an S content of 6% was added drop-wise to the reaction n-mixture at room temperature with stirring. The mixture was heated to 50° C. and stirred at the same temperature for 3 hours. After cooling to room temperature, water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with water. The solvent was removed by distillation under reduced pressure, which afforded 3.63 g of N-(4methoxyphenyl)-N-(2-chloro-2-propenyl)thiourea as a dark red solid (94% yield in appearance). The percentage area of liquid chromatography was 94%.

reactant | N-(4-methoxyphenyl)cyanamide | 2.22 g | COC1=CC=C(C=C1)NC#N | C8H8N2O
reactant | potassium carbonate | 3.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.26 g | [I-].[K+]
reactant | 2,3-dichloro-1-propene | 2.00 g | ClC(=C)CCl | C3H4Cl2
reactant | ammonium sulfide | [NH4+]=S
solvent | DMF | 11.10 g | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(4methoxyphenyl)-N-(2-chloro-2-propenyl)thiourea | 3.63 g, 94% yield | COC1=CC=C(C=C1)N(C(=S)N)CC(=C)Cl | C11H13ClN2OS
